US09382228B2
A mixture of N-(6-methyl-5-((2-(3-methylisoxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)acetamide (0.11 g, 0.339 mmol) and 2M HCl (1.696 mL, 3.39 mmol) in THF (3 mL) was heated at 60° C. for 4 h. The mixture was cooled to RT, treated with EtOAc and H2O, neutralized with NaHCO3, the layers separated and the aqueous layer extracted with EtOAc (1×). The combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford 6-methyl-5-((2-(3-methylisoxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (90 mg, 94%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.51 (d, J=5.7 Hz, 1H); 7.26 (d, J=2.5 Hz, 1H); 7.22 (d, J=8.7 Hz, 1H); 6.95 (s, 1H); 6.89 (dd, J=5.7, 2.5 Hz, 1H); 6.36 (d, J=8.7 Hz, 1H); 6.00 (s, 2H); 2.28 (s, 3H); 2.06 (s, 3H); MS (ESI) m/z: 283.1 (M+H+).

reactant | N-(6-methyl-5-((2-(3-methylisoxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)acetamide | 0.339 mmol, 0.11 g | CC1=C(C=CC(=N1)NC(C)=O)OC1=CC(=NC=C1)C1=CC(=NO1)C | C17H16N4O3
reactant | HCl | 3.39 mmol, 2M, 1.696 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 6-methyl-5-((2-(3-methylisoxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 90 mg, 94% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C1=CC(=NO1)C | C15H14N4O2
